US04255426
Following the procedure of Example 5, 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine was reacted with 4-methylbenzyl chloride to form 1-(4-methylbenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine, mp 238°-239° C.

reactant | 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine | OC(CN1CCNCC1)COCCCCCCCCCCCCCCCC | C23H48N2O2
reactant | 4-methylbenzyl chloride | CC1=CC=C(CCl)C=C1 | C8H9Cl
product | 1-(4-methylbenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine | CC1=CC=C(CN2CCN(CC2)CC(COCCCCCCCCCCCCCCCC)O)C=C1 | C31H56N2O2
